US05430032
1-(8-CHLORO-5,11-DIHYDRO[1]BENZOXEPINO[4,3-b]PYRIDIN-11-YL)-4-(4-PYRIDINYLCARBONYL)PIPERAZINE N4 -OXIDE
Add isonicotinic acid N-oxide (0.79 g, 5.70 mmole) to 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzoxepino[4,3-b]pyridine (1.50 g, 4.75 mmole) in dichloromethane (30 mL) at 0° C. under a nitrogen atmosphere. Add 1-hydroxybenzotriazole hydrate (0.77 g, 5.70 mmole) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.09 g, 5.70 mmole). Warm the reaction mixture up slowly, and stir for 23 hours at room temperature. Add 1N aqueous sodium hydroxide (50 mL), and separate layers. Extract with dichloromethane (2×50 mL). Wash the organic solution with brine, dry with MgSO4, filter, and concentrate under reduced presure. Dissolve the solid in dichloromethane, and chromatograph on silica gel, eluting with 7% methanol in dichloromethane, then 10% methanol in dichloromethane. Combine the appropriate fractions, and concentrate under reduced pressure to give a light yellow solid. Recrystallize the product from dichloromethane/hexane to obtain the title compound as a white solid (1.97 g, 95% yield): mp 206°-208° C.; MS (CI) m/z 421 [M+ -16].

reactant | isonicotinic acid N-oxide | 5.70 mmole, 0.79 g | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzoxepino[4,3-b]pyridine | 4.75 mmole, 1.50 g | ClC1=CC2=C(C(C3=NC=CC=C3CO2)N2CCNCC2)C=C1 | C17H18ClN3O
reactant | 1-hydroxybenzotriazole hydrate | 5.70 mmole, 0.77 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.70 mmole, 1.09 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(8-CHLORO-5,11-DIHYDRO[1]BENZOXEPINO[4,3-b]PYRIDIN-11-YL)-4-(4-PYRIDINYLCARBONYL)PIPERAZINE N4 -OXIDE | 1.97 g, 95% yield | ClC1=CC2=C(C(C3=NC=CC=C3CO2)N2CC[N+](CC2)(C(=O)C2=CC=NC=C2)[O-])C=C1 | C23H21ClN4O3
